US07884109B2
Raney-Ni (5 mL slurry in water) was added to a solution of 8-bromo-5,6-difluoro-2,3-dihydrochromen-4-one oxime (1.9 g) in 200 mL MeOH. The mixture was hydrogenated at 50 psi for 24 hrs to provide 8-bromo-5,6-difluoro-3,4-dihydro-2H-chromen-4-amine. Pd/C (0.3 g) was added to the mixture and hydrogenation was resumed at 50 psi for 4 hours. The title compound was obtained after filtration and concentration in vacuo. 1H NMR (300 MHz, 10% CD3OD in CDCl3): δ 7.15 (q, 1H), 6.6 (m, 1H), 4.6 (bm, 1H), 4.25 (bm, 2H), 2.2-2.4 (m, 2H).

reactant | 8-bromo-5,6-difluoro-2,3-dihydrochromen-4-one oxime | 1.9 g | BrC=1C=C(C(=C2C(CCOC12)=NO)F)F | C9H6BrF2NO2
solvent | MeOH | 200 mL | CO | CH4O
catalyst | Ni | 5 mL | [Ni] | Ni
product | 8-bromo-5,6-difluoro-3,4-dihydro-2H-chromen-4-amine | BrC=1C=C(C(=C2C(CCOC12)N)F)F | C9H8BrF2NO
